### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace): more lemma about simplex face and interior

### PR DESCRIPTION
**Pull request by wwylele**
Some intermediate lemma towards #34826

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 1]
```diff
@@ -375,6 +419,29 @@ lemma setInterior_subset_affineSpan {I : Set k} {n : ℕ} {s : Simplex k P n} :
   rintro p ⟨w, hw, hi, rfl⟩
   exact affineCombination_mem_affineSpan_of_nonempty hw _
 
+lemma setInterior_restrict (I : Set k) {n : ℕ} (s : Simplex k P n) {S : AffineSubspace k P}
+    (hS : affineSpan k (Set.range s.points) ≤ S) :
+    letI := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
+    (s.restrict S hS).setInterior I = S.subtype ⁻¹' (s.setInterior I) := by
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:443]: Where `map` and `restrict` lemmas don't already exist, I generally think they should be added together (and then the `restrict` lemmas about various interior definitions could be deduced from the corresponding `map` lemmas).

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 2]
```diff
@@ -132,6 +143,21 @@ def faceOpposite {n : ℕ} [NeZero n] (s : Simplex k P n) (i : Fin (n + 1)) : Si
     Set.range (s.faceOpposite i).points = s.points '' {i}ᶜ := by
   simp [faceOpposite]
 
+lemma affineSpan_faceOpposite_le {n : ℕ} [NeZero n] (s : Simplex k P n) (i : Fin (n + 1)) :
+    affineSpan k (Set.range (s.faceOpposite i).points) ≤ affineSpan k (Set.range s.points) :=
+  s.affineSpan_face_le _
+
+lemma points_mem_affineSpan_faceOpposite [Nontrivial k] {n : ℕ} [NeZero n] (s : Simplex k P n)
+    (i : Fin (n + 1)) (j : Fin (n + 1)) :
+    s.points j ∈ affineSpan k (Set.range (s.faceOpposite i).points) ↔ j ≠ i := by
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:152]: Typically a hypothesis appearing on both sides of an `iff` lemma is implicit, so `{i j : Fin (n + 1)}`.

**Comment by jsm28** [comment]
maintainer merge
